US20010006969A1
4-Allylamino-2-heptylamino-6-nitroquinazoline
A mixture of 200 mg (0.76 mmol) of 4-allylamino-2-chloro-6-nitroquinazoline and 1.55 g (13.49 mmol) of heptylamine was stirred at room temperature for 2 hours. Water was added to the reaction solution, followed by extraction with ethyl acetate, washing brine and drying over anhydrous sodium sulfate. After the solvent was distilled off, the residue was purified by a silica gel column to give 228 mg (87.8%) of the title compound.

reactant | 4-allylamino-2-chloro-6-nitroquinazoline | 0.76 mmol, 200 mg | C(C=C)NC1=NC(=NC2=CC=C(C=C12)[N+](=O)[O-])Cl | C11H9ClN4O2
reactant | heptylamine | 13.49 mmol, 1.55 g | C(CCCCCC)N | C7H17N
solvent | Water | O | H2O
product | 4-Allylamino-2-heptylamino-6-nitroquinazoline | 228 mg, 87.8% | C(C=C)NC1=NC(=NC2=CC=C(C=C12)[N+](=O)[O-])NCCCCCCC | C18H25N5O2
